US07294636B2
Step 2: Preparation of (S)-3-phenyl-3-(4-methanesulfonylphenyl)propan-1-ol
To a solution of (4S,5R)-1-[(S)-3-(4-methanesulfonyl-phenyl)-3-phenyl-propionyl]-3,4-dimethyl-5-phenyl-imidazolidin-2-one (846 mg, 1.78 mmol) in THF (20 mL) at 0° C. was added lithium aluminium hydride (3.6 mL, 1M in THF, 3.6 mmol) and the resulting mixture was stirred for 15 min. The reaction was quenched by the addition of 2M aqueous sodium hydroxide. The phases were separated and the organic phase pre-absorbed onto a Bond Elut and eluted with a gradient of isohexane to ethyl acetate giving the sub-titled compound as a white solid (285 mg, 55%); NMR (CDCl3): 1.63 (br s, 1H), 2.33 (m, 2H), 3.00 (s, 3H), 3.59 (t, 2H), 4.28 (t, 1H), 7.23 (m, 5H), 7.43 (d, 2H), 7.82 (d, 2H).

reactant | (4S,5R)-1-[(S)-3-(4-methanesulfonyl-phenyl)-3-phenyl-propionyl]-3,4-dimethyl-5-phenyl-imidazolidin-2-one | 1.78 mmol, 846 mg | CS(=O)(=O)C1=CC=C(C=C1)[C@@H](CC(=O)N1C(N([C@H]([C@H]1C1=CC=CC=C1)C)C)=O)C1=CC=CC=C1 | C27H28N2O4S
reactant | lithium aluminium hydride | 3.6 mmol, 1M, 3.6 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (S)-3-phenyl-3-(4-methanesulfonylphenyl)propan-1-ol | C1(=CC=CC=C1)[C@H](CCO)C1=CC=C(C=C1)S(=O)(=O)C | C16H18O3S
